US07348425B2
To a solution of 4-amino-3-bromopyridine (1.0 g, 5.78 mmol) in THF (10 mL), DIPEA (1.1 mL, 6.36 mmol) and (Boc)2O (1.39 g, 6.36 mmol) were added. The reaction mixture was stirred at rt. for two days. It was then quenched with 1N HCl solution and extracted with ethyl acetate (2×50 mL). The organic layers were combined, dried (MgSO4), filtered and concentrated to give tert-butyl 3-bromopyridin-4-ylcarbamate as a yellowish thick oil, (1.1 g, 70% yield). MS m/z 273,275(MH+); 1H NMR (300 MHz, CDCl3)δ ppm 1.51 (s, 9 H) 7.14 (s, 1 H) 8.12 (d, J=5.49 Hz, 1 H) 8.34 (d, J=5.86 Hz, 1 H) 8.55 (s, 1 H).

reactant | 4-amino-3-bromopyridine | 5.78 mmol, 1.0 g | NC1=C(C=NC=C1)Br | C5H5BrN2
reactant | DIPEA | 6.36 mmol, 1.1 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | (Boc)2O | 6.36 mmol, 1.39 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | tert-butyl 3-bromopyridin-4-ylcarbamate | 70% yield | BrC=1C=NC=CC1NC(OC(C)(C)C)=O | C10H13BrN2O2
